US05328911
3-[(2'-carboxybiphenyl-4-yl)methyl]-2-hydroxymethyl-7-methyl-3H-imidazo[4.5-b]pyridine
A mixture of 8 ml of an aqueous 10% sodium hydroxide solution of 500 mg (1.3 mmol) of 2-hydroxymethyl-3-[(2'-methoxycarbonyl-biphenyl-4-yl)methyl]-7-methyl- 3H-imidazo[4.5-b]pyridine and 20 ml of ethanol was heated for reflux for 2 hours. The insoluble was removed out and the filtrate was concentrated. The residue was mixed with water and washed with ethyl acetate. The aqueous phase was weakly acidified with 2N hydrochloric acid and acetic acid. The precipitates of crystals was taken out and washed with water, dried, to obtain 400 mg of the intended compound.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-hydroxymethyl-3-[(2'-methoxycarbonyl-biphenyl-4-yl)methyl]-7-methyl- 3H-imidazo[4.5-b]pyridine | 1.3 mmol, 500 mg | OCC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C23H21N3O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-[(2'-carboxybiphenyl-4-yl)methyl]-2-hydroxymethyl-7-methyl-3H-imidazo[4.5-b]pyridine | 400 mg | C(=O)(O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2C)CO | C22H19N3O3
